US07589200B2
In like manner to the preparation of N2,N4-bis(3-tert-butoxycarbonylmethyleneaminophenyl-5-fluoro-2,4-pyrimidinediamine, N2,N4-bis(3-aminophenyl-5-fluoro-2,4-pyrimidinediamine and tert-butyl bromoacetate were reacted together to give N4-(3-aminophenyl)-N2-(3-tert-butoxycarbonylmethyleneaminophenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 18.33 min.; purity: 94.5%; MS (m/e): 369.09 (MH+).

reactant | 3-tert-butoxycarbonylmethyleneaminophenyl-5-fluoro-2,4-pyrimidinediamine | C(C)(C)(C)OC(=O)C=NC=1C=C(C=CC1)C1=C(C(=NC(=N1)N)N)F | C16H18FN5O2
reactant | 3-aminophenyl-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)C1=C(C(=NC(=N1)N)N)F | C10H10FN5
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | N4-(3-aminophenyl)-N2-(3-tert-butoxycarbonylmethyleneaminophenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)N=CC(=O)OC(C)(C)C | C22H23FN6O2
